US06051358
Preparation of 2,6-Bis(2,4-dihydroxy-5-hexylbenzyl)-4-methylphenol
To 500 ml flask was added 300 ml of methanol, 60 g of 4-hexylresorcinol and 16.9 g of 2,6-bis(hydroxymethyl)-4-methylphenol. 2.2 g of toluenesulfonic acid monohydrate was then added and the reaction solution heated at reflux for 20.5 hours. The warm reaction solution was slowly added, with agitation, to about 1.5 L of de-mineralized water containing about 1.3% hydrochloric acid. To the precipitate mixture an additional 20 ml of concentrated hydrochloric acid was added and mixed until the precipitate solidified. The crude product was collected on a filter, reduced to small pieces and air dried while gently warmed on a hot plate. To the crude product 200 ml of toluene was added and the mixture heated to about 85° C. The hot solution was filtered using a pre-heated Buchner funnel and the filtrate allowed to stand at room temperature. The crystals were collected on the filter, rinsed and slurred in 50 ml of cold toluene. After collection and drying about 16.5 g of product was obtained having a purity of about 95% as determined by HPLC.

reactant | 4-hexylresorcinol | 60 g | C(CCCCC)C1=C(C=C(O)C=C1)O | C12H18O2
reactant | 2,6-bis(hydroxymethyl)-4-methylphenol | 16.9 g | OCC1=C(C(=CC(=C1)C)CO)O | C9H12O3
reactant | toluenesulfonic acid monohydrate | 2.2 g | O.C=1(C(=CC=CC1)S(=O)(=O)O)C
reactant | hydrochloric acid | 20 ml | Cl | ClH
reactant | water | about 1.5 L | O | H2O
solvent | methanol | 300 ml | CO | CH4O
product | 2,6-Bis(2,4-dihydroxy-5-hexylbenzyl)-4-methylphenol | OC1=C(CC2=C(C(=CC(=C2)C)CC2=C(C=C(C(=C2)CCCCCC)O)O)O)C=C(C(=C1)O)CCCCCC | C33H44O5
